US08937091B2
Acryloylbenzene 8184
Benzene (1 mL), acryloyl chloride (0.4 mL), and aluminium chloride (0.33 g) were added to dichloromethane (4 mL), followed by stirring at 0° C. for 2 hours. After reaction, 1 N hydrochloric acid and dichlormethane (5 mL) were added in order. The organic phase was concentrated. The obtained residue was applied to a silica gel column to obtain the title compound (120 mg).

reactant | Benzene | 1 mL | C1=CC=CC=C1 | C6H6
reactant | acryloyl chloride | 0.4 mL | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 0.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | dichlormethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | Acryloylbenzene | 120 mg | C(C=C)(=O)C1=CC=CC=C1 | C9H8O
